US07538112B2
Step 7: Ethyl 6-acetyl-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate
A mixture of ethyl 8-(benzyloxy)-6-bromo-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (0.42 g, 1.03 mmol), palladium acetate (29 mg, 0.13 mmol), thallium acetate (0.34 g, 1.29 mmol), diisopropyl ethylamine (0.58 mL, 4.12 mmol), 1,3-bis(diphenylphosphino)propane (60 mg, 0.14 mol), n-butyl vinyl ether (0.67 mL, 5.2 mmol) in DMF (3 mL) was purged with nitrogen for 5 minutes. The mixture was sealed and heated at 100° C. overnight. The reaction mixture was concentrated under vacuum, and the residue was treated with 1 N aq HCl and stirred at room temperature for one hour. The reaction mixture was diluted with dichloromethane. The organic extract was dried over sodium sulfate, filtered and concentrated. The residue was subjected to column chromatography on silica gel eluted with ethyl acetate to provide titled product.

reactant | ethyl 8-(benzyloxy)-6-bromo-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 1.03 mmol, 0.42 g | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)C)=O)Br)C(=O)OCC | C18H19BrN2O4
reactant | thallium acetate | 1.29 mmol, 0.34 g | C(C)(=O)[O-].[Tl+]
reactant | diisopropyl ethylamine | 4.12 mmol, 0.58 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3-bis(diphenylphosphino)propane | 0.14 mol, 60 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | n-butyl vinyl ether | 5.2 mmol, 0.67 mL | C(=C)OCCCC | C6H12O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.13 mmol, 29 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 6-acetyl-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)C)OCC2=CC=CC=C2)C(=O)OCC | C20H22N2O5
